US03953476
3-Cyclopropylmethylamino-4-chloro-5-methylsulfinylbenzoic acid
This product is prepared by replacing the 4-chloro-5-methylsulfonylanthranilic acid and the benzyl bromide employed in Example 4 by equivalent quantities of 3-amino-4-chloro-5-methylsulfinylbenzoic acid and cyclopropylmethyl bromide, respectively and following substantially the same procedure described in Example 4.

reactant | 4-chloro-5-methylsulfonylanthranilic acid | ClC=1C=C(C(C(=O)O)=CC1S(=O)(=O)C)N | C8H8ClNO4S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-amino-4-chloro-5-methylsulfinylbenzoic acid | NC=1C=C(C(=O)O)C=C(C1Cl)S(=O)C | C8H8ClNO3S
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | 3-Cyclopropylmethylamino-4-chloro-5-methylsulfinylbenzoic acid | C1(CC1)CNC=1C=C(C(=O)O)C=C(C1Cl)S(=O)C | C12H14ClNO3S
